US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-2-methyl-6-methylsulfonyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-(2-methyl-3-oxo-5-methylsulfonyl-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.35 g) was coupled to 4-(2-oxoperhydropyrimidine-1-yl)piperidine (0.15 g) by a method similar to that described in Example 8. The reaction product was not purified by chromatography but converted to the corresponding hydrochloride salt as described in the Example 8 to give the title compound (0.1 g); MS: m/z=593(M+1); NMR: 1.16 (m,5), 2.21 (m,5), 3.65 (m,1), 4.25 (m,1), 5.01 (d,1, J=3.9), 6.73 (m,2), 7.21 (m,1), 8.18 (m,3). Analysis for C28H34Cl2N4O24S.2.0 H2O: Calculated C, 53.14; H, 6.08, N, 8.89; Found: C, 53.58; H, 5.73; N, 8.56.

reactant | 3-(3,4-Dichlorophenyl)-3-(2-methyl-3-oxo-5-methylsulfonyl-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.35 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC(=CC=C12)S(=O)(=O)C)=O)C | C19H17Cl2NO4S
reactant | 4-(2-oxoperhydropyrimidine-1-yl)piperidine | 0.15 g | O=C1N(CCCN1)C1CCNCC1 | C9H17N3O
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-oxoperhydropyrimidine-1-yl)piperidino)propyl]-2-methyl-6-methylsulfonyl-2,3-dihydroisoindol-1-one hydrochloride | 0.1 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)N1C(NCCC1)=O)C1N(C(C2=CC(=CC=C12)S(=O)(=O)C)=O)C | InChI=1S/C28H34Cl2N4O4S.ClH/c1-32-26(22-6-5-20(39(2,37)38)17-23(22)27(32)35)21(18-4-7-24(29)25(30)16-18)10-15-33-13-8-19(9-14-33)34-12-3-11-31-28(34)36;/h4-7,16-17,19,21,26H,3,8-15H2,1-2H3,(H,31,36);1H
